US08097613B2
q) (1R,2S,7R,8S)-3-(4-Fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one
(1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-ene-5-carboxylic acid ethyl ester was suspended in a 1/1 mixture of 1,4-dioxane and 1.0 M aqueous sulfuric acid solution (200 mL). The mixture was heated to 110° C. for 40 min, and then was allowed to cool to 25° C. The cooled mixture was poured into a separatory funnel and was extracted with ethyl acetate (2×150 mL). The combined organic layers were dried over sodium sulfate, filtered and were concentrated in vacuo to afford a white solid. This material was triturated with hexanes and was collected by filtration, washed with hexanes (2×15 mL) and air-dried to afford the desired product, (1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one (2.24 g, 7.80 mmol, 54% over three steps), as a white solid. 1H NMR (major tautomer, 400 MHz, CDCl3) δ: 1.11-1.16 (1H, m), 1.20-1.39 (3H, m), 1.57-1.69 (2H, m), 2.53 (1H, d, J=8.4 Hz), 2.63 (1H, bs), 2.73 (1H, bs), 3.39 (1H, d, J=4.1 Hz), 3.51 (1H, d, J=9.5 Hz), 4.29 (1H, d, J=14.9 Hz), 5.20 (1H, d, J=14.9 Hz), 6.98-7.04 (2H, m), 7.19-7.24 (2H, m).

reactant | (1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-ene-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N([C@H]2[C@@H]3CC[C@H]([C@H]2C1O)C3)CC3=CC=C(C=C3)F)=O | C20H22FNO4
reactant | sulfuric acid | 1.0 M, 200 mL | S(O)(O)(=O)=O | H2O4S
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | (1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one | 7.80 mmol, 2.24 g, 54% | FC1=CC=C(CN2[C@H]3[C@@H]4CC[C@H]([C@H]3C(=CC2=O)O)C4)C=C1 | C17H18FNO2
